US05356918
(4R)-N-[1-(Nitrooxymethyl)ethyl]-2-oxothiazolidine-4-carboxamide (Compound No. 1-30)
A procedure similar to that described in Example 1 was repeated, but using 1.5 g of (4R)-2-oxothiazolidine4-carboxylic acid and 2.3 g of 1-(nitrooxymethyl)ethylamine nitrate, to obtain 0.35 g of the title compound as colorless crystals, melting at 112°-114° C. (after recrystallization from ethanol).

reactant | (4R)-2-oxothiazolidine4-carboxylic acid | 1.5 g | O=C1SC[C@H](N1)C(=O)O | C4H5NO3S
reactant | 1-(nitrooxymethyl)ethylamine nitrate | 2.3 g | [N+](=O)(O)[O-].[N+](=O)([O-])OCC(C)N
product | (4R)-N-[1-(Nitrooxymethyl)ethyl]-2-oxothiazolidine-4-carboxamide | [N+](=O)([O-])OCC(C)NC(=O)[C@H]1NC(SC1)=O | C7H11N3O5S
